US04556660
A mixture of 4.5 parts of 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(2-pyrimidinyl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine, 15 parts of acetic acid anhydride and 140 parts of acetic acid was stirred and refluxed overnight. The reaction mixture was evaporated. The residue was taken up in water and the whole was alkalized with ammonium hydroxide. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by HPLC over silica gel using a mixture of methylbenzene and ethanol (90:10 by volume) as eluent. The second fraction was collected and the eluent was evaporated. The residue was converted into the (E)-2-butenedioate salt in methanol. The salt is filtered off and dried, yielding 1.2 parts (16.5%) of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-N-(2-pyrimidinyl)acetamide (E)-2-butenedioate (1:2); mp. 191.1° C. (compound 99).

reactant | 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(2-pyrimidinyl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC2=NC=CC=N2 | C25H28FN7
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-N-(2-pyrimidinyl)acetamide (E)-2-butenedioate | 16.5% | C(\C=C\C(=O)O)(=O)O.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN(C(C)=O)C2=NC=CC=N2 | InChI=1S/C27H30FN7O.C4H4O4/c1-20(36)34(26-29-13-4-14-30-26)18-17-33-15-11-23(12-16-33)31-27-32-24-5-2-3-6-25(24)35(27)19-21-7-9-22(28)10-8-21;5-3(6)1-2-4(7)8/h2-10,13-14,23H,11-12,15-19H2,1H3,(H,31,32);1-2H,(H,5,6)(H,7,8)/b;2-1+
